US06562989B2
4-methoxybiphenyl (Table 11, Entry 2)
Bromobenzene (79 mg, 0.50 mmol) reacted with 4-methoxyphenylboronic acid (99 mg, 0.65 mmol) using 1 mol % of Pd(dba)2/Ph5FcP(t-Bu)2 and KF (87 mg, 1.50 mmol) in THF solvent at room temperature to give the title compound (87 mg, 95%) as a white solid. The reaction of 4-chloroanisole (71 mg, 0.50 mmol) with phenylboronic acid (92 mg, 0.75 mmol) gave the title compound (74 mg, 80%) using 1/2 mol % of Pd(dba)2/Ph5FcP(t-Bu)2 and KF in THF solvent at 40° C. 1H-NMR (400 MHz, CDCl3): δ 7.61 (m, 4H), 7.48 (t, 2H, J=7.6 Hz), 7.37 (app.t, 1H, J=7.2 Hz), 7.04 (d, 2H, J=8.8 Hz), 3.90 (s, 3H). 13C{1H}-NMR (100 MHz, CDCl3): δ 159.09, 140.76, 133.69, 128.66, 128.08, 126.67, 126.60, 114.14, 55.26. GC/MS(EI): m/z 184 (M+). Anal. Calcd for C13H12O: C, 84.75; H, 6.56. Found: C, 84.86; H, 6.76.

reactant | Bromobenzene | 0.50 mmol, 79 mg | BrC1=CC=CC=C1 | C6H5Br
reactant | 4-methoxyphenylboronic acid | 0.65 mmol, 99 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | KF | 1.50 mmol, 87 mg | [F-].[K+]
solvent | THF | C1CCOC1 | C4H8O
product | 4-methoxybiphenyl | 87 mg, 95% | COC1=CC=C(C=C1)C1=CC=CC=C1 | C13H12O
